US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-fluoro-3′-[(4-oxo-1-piperidinyl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide
To a solution of N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-fluoro-3′-[(4-hydroxy-1-piperidinyl)methyl]-3-biphenyl-yl}methyl)-1,3-benzenedicarboxamide (85 mg, 0.114 mmol) in DCM (0.5 mL) was added Dess-Martin Periodinane (0.417 mL, 0.125 mmol). This mixture was stirred at room temperature for 40 min. The reaction was quenched with Na2SO3 (˜0.2 mL, 5%), concentrated and purified using a Gilson HPLC (with 0.1% TFA). The product fraction was concentrated and basified with an amine cartridge to afford 0.0121 g (14%) of the title compound. LC-MS m/z 746 (M+H)+; 1H NMR (400 MHz, CD3OD) δ ppm 1.31 (t, J=7.40 Hz, 3 H) 1.41 (t, J=7.15 Hz, 3 H) 1.64-1.83 (m, 4 H) 1.99-2.02 (m, J=1.25 Hz, 1 H) 2.04-2.07 (m, 1 H) 2.38 (t, J=6.02 Hz, 2 H) 2.59-2.78 (m, 4 H) 3.00 (q, J=7.45 Hz, 2 H) 3.60 (t, J=11.29 Hz, 2 H) 3.65-3.69 (m, 1 H) 3.71-3.78 (m, 1 H) 3.93-4.02 (m, J=11.54 Hz, 2 H) 4.10-4.20 (m, 1 H) 4.41 (q, J=7.19 Hz, 2 H) 4.58 (s, 2 H) 4.69 (s, 2 H) 7.09-7.18 (m, 1 H) 7.31-7.50 (m, 5 H) 7.51-7.59 (m, 2 H) 7.95-8.03 (m, 3 H) 8.31 (s, 1 H).

reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-fluoro-3′-[(4-hydroxy-1-piperidinyl)methyl]-3-biphenyl-yl}methyl)-1,3-benzenedicarboxamide | 0.114 mmol, 85 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2CCC(CC2)O)CC | C43H50FN7O4
reactant | Dess-Martin Periodinane | 0.125 mmol, 0.417 mL | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-fluoro-3′-[(4-oxo-1-piperidinyl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide | 0.0121 g, 14% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2CCC(CC2)=O)CC | C43H48FN7O4
